US06706703B2
To a solution of 3,5-dimethoxyphenol (6.73 g, 43.7 mmol) in anhydrous dimethylformamide (50 mL) were added imidazole (5.95 g, 87.4 mmol) and t-butylchlorodiphenylsilane (15.0 g, 54.6 mmol), and the mixture was stirred at 50° C. for 4 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate-hexane (1:2). The organic layer was washed with water, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield 1-t-butyldiphenylsiloxy-3,5-dimethoxybenzene as a colorless crystalline powder (melting point: 95.5-96.5° C.) (16.14 g, yield: 94%).

reactant | 3,5-dimethoxyphenol | 43.7 mmol, 6.73 g | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | imidazole | 87.4 mmol, 5.95 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodiphenylsilane | 54.6 mmol, 15.0 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | Water | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-t-butyldiphenylsiloxy-3,5-dimethoxybenzene | 16.14 g, yield: 94% | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC(=CC(=C1)OC)OC | C24H28O3Si
